US04387230
1-Benzyl-5-hydroxy-1,2,5,6-tetrahydro-3-(p-trifluoromethylphenyl)pyridine
A solution of 1-benzyl-1,6-dihydro-5-(p-trifluoromethylphenyl)-3-(2H)pyridone hydrochloride hydrate (11.6 g) in ethanol (250 ml) was treated with sodium bicarbonate (2 g) followed by sodium borohydride (1.5 g). After 2 hours the solvents were removed under reduced pressure and the residue partitioned between water (100 ml) and ether (400 ml). The organic phase was dried and the solvent removed under reduced pressure. Recrystallisation of the residue from cyclohexane gave the title compound (7.3 g), m.p. 88°-90°.

reactant | 1-benzyl-1,6-dihydro-5-(p-trifluoromethylphenyl)-3-(2H)pyridone hydrochloride hydrate | 11.6 g | O.Cl.C(C1=CC=CC=C1)N1CC(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)=O
reactant | sodium bicarbonate | 2 g | C([O-])(O)=O.[Na+]
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-Benzyl-5-hydroxy-1,2,5,6-tetrahydro-3-(p-trifluoromethylphenyl)pyridine | 7.3 g | C(C1=CC=CC=C1)N1CC(=CC(C1)O)C1=CC=C(C=C1)C(F)(F)F | C19H18F3NO
